26
R0102 1 2 1000
R0302 3 2 50000
R0402 4 2 1000
R0502 5 2 50000
R0602 6 2 50000
R0702 7 2 100
R0802 8 2 5000
R0900 9 0 1000
R1009 10 9 99000
R1112 11 12 39000
R1314 13 14 40000
R1015 10 15 27
R1000 10 0 1000
R1610 16 10 27
C1718 17 18 30E-12
Q1903 19 3 1 NPN
Q1803 18 3 4 NPN
Q1805 18 5 2 NPN
Q0505 5 5 2 NPN
Q1212 12 12 2 NPN
Q2012 20 12 8 NPN
Q2119 21 19 3 NPN
Q1706 17 6 7 NPN
Q2118 21 18 6 NPN
Q2223 22 23 24 NPN
Q2209 22 9 25 NPN
Q2613 26 13 14 NPN
Q2626 26 26 13 NPN
Q2616 26 16 10 NPN
Q2126 21 26 16 NPN
Q0217 2 17 14 PNP
Q0214 2 14 15 PNP
Q1920 19 20 24 PNP
Q1820 18 20 25 PNP
Q0515 5 15 10 PNP
Q2022 20 22 21 PNP
Q2222 22 22 21 PNP
Q1111 11 11 21 PNP
Q1711 17 11 21 PNP
Q2611 26 11 21 PNP
V0002 0 2 0 0 12
V2300 23 0 1 0 0
V2100 21 0 0 0 12
.AC DEC 30 10 10000000
