15
R0102 1 2 1000
R0301 3 1 10000
R0400 4 0 10000
R0503 5 3 60
C0607 6 7 1E-12
Q0808 8 8 0 NPN
Q0708 7 8 0 NPN
Q0604 6 4 0 NPN
Q0910 9 10 4 NPN
Q0605 6 5 3 NPN
Q0911 9 11 5 NPN
Q0906 9 6 11 NPN
Q0007 0 7 10 PNP
Q0006 0 6 3 PNP
Q0001 0 1 12 PNP
Q0013 0 13 14 PNP
Q0812 8 12 15 PNP
Q0714 7 14 15 PNP
I0300 3 0 0 0 50E-6
I0915 9 15 0 0 6E-6
I0910 9 10 0 0 4E-6
I0906 9 6 0 0 100E-6
V0200 2 0 0 0 5
V1300 13 0 1 0 5
V0900 9 0 0 0 10
.AC DEC 50 1 1E9
