4
R5 1 0 1
R1 2 3 1
L2 4 2 9.32778700555237E-2
L4 1 4 1.4031540561078E-1
C1 2 0 2.25232050025549E-1
C3 4 0 3.39107403777281E-1
C5 1 0 2.93516449551719E-1
C2 4 2 1.7274276550171E-1
C4 1 4 5.79956913281569E-2
VIN 3 0 1 0
.AC OCT 50 0.5 4
