6
QN1 3 2 4 NPN 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18 5e-12 100e-18
V002 1 0 0.001 0.000 10
R001 1 2 74000
R002 2 0 26000
R00C 3 1 3000
R00E 4 0 2000
.AC DEC 100 1 1e9
