4
Rc 3 4 3
Rb 2 1 2
Vc 0 3 10 45 0
Vb 0 3 5 45 0
Q1 1 2 3 NPN 0.995 0.5 1e-9 43.43e-3 1e-9 43.43e-3 100 5e-12 100e-18 5e-12 100e-18
.AC DEC 100 1 100E9
